US07253286B2
N-(4-(5,6-Dimethyl-4-7H-pyrrolo[2,3-d]pyrimidyl)oxyphenyl)-N′-(4-fluorophenyl)urea
4-(4-Aminophenoxy)-5,6-dimethyl-7H-pyrrolo[2,3-d]-pyrimidine was dissolved in toluene (16 mg) (0.8 ml) and acetonitrile (0.5 ml) under reflux, and then 4-fluorophenyl isocyanate (7.9 μM) was added. The mixture was stirred for 1 hour and returned to room temperature, and then the reaction system was concentrated, diethyl ether was added to the residue, and the resulting crystals were filtered out. The crystals were washed with diethyl ether to obtain the title compound (5 mg).

reactant | 4-(4-Aminophenoxy)-5,6-dimethyl-7H-pyrrolo[2,3-d]-pyrimidine | NC1=CC=C(OC=2C3=C(N=CN2)NC(=C3C)C)C=C1 | C14H14N4O
reactant | acetonitrile | 0.5 ml | C(C)#N | C2H3N
reactant | 4-fluorophenyl isocyanate | 7.9 μM | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | toluene | 0.8 ml, 16 mg | C1(=CC=CC=C1)C | C7H8
product | N-(4-(5,6-Dimethyl-4-7H-pyrrolo[2,3-d]pyrimidyl)oxyphenyl)-N′-(4-fluorophenyl)urea | 5 mg | CC1=C(NC=2N=CN=C(C21)OC2=CC=C(C=C2)NC(=O)NC2=CC=C(C=C2)F)C | C21H18FN5O2
